.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' ss

.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
XMTAIL SN CLK VSS VSS nfet_03v3 L=0.5u W=9.1u nf=1
XMINN SN_P INN SN VSS nfet_03v3 L=0.7u W=3u nf=1
XMINP SN_N INP SN VSS nfet_03v3 L=0.7u W=3u nf=1
XMLATN OUTN OUTP SN_N VSS nfet_03v3 L=0.5u W=2.3u nf=1
XMLATP OUTP OUTN SN_P VSS nfet_03v3 L=0.5u W=2.3u nf=1
XMPLTN OUTN OUTP VDD VDD pfet_03v3 L=0.5u W=3u nf=1
XMPLTP OUTP OUTN VDD VDD pfet_03v3 L=0.5u W=3u nf=1
XMPRSN SN_N CLK VDD VDD pfet_03v3 L=0.5u W=0.8u nf=1
XMPRSP SN_P CLK VDD VDD pfet_03v3 L=0.5u W=0.8u nf=1
XMPRON OUTN CLK VDD VDD pfet_03v3 L=0.5u W=1.6u nf=1
XMPROP OUTP CLK VDD VDD pfet_03v3 L=0.5u W=1.6u nf=1
.ends

Vsupply0 VDD 0 3.0
Vsupply1 VSS 0 0.0
Vsrc0 CLK 0 PULSE(0 3.0 30n 100p 100p 40n 100n)
Vsrc1 INP 0 PWL(0.000000u 1.652500 0.104000u 1.652500 0.105000u 1.647500 0.204000u 1.647500 0.205000u 1.675000 0.304000u 1.675000 0.305000u 1.625000 0.404000u 1.625000 0.405000u 1.700000 0.504000u 1.700000 0.505000u 1.600000 0.670000u 1.600000)
Vsrc2 INN 0 PWL(0.000000u 1.647500 0.104000u 1.647500 0.105000u 1.652500 0.204000u 1.652500 0.205000u 1.625000 0.304000u 1.625000 0.305000u 1.675000 0.404000u 1.675000 0.405000u 1.600000 0.504000u 1.600000 0.505000u 1.700000 0.670000u 1.700000)
C_load_OUTP OUTP 0 20f
C_load_OUTN OUTN 0 20f
Xdut VDD VSS INP INN CLK OUTP OUTN strongarm_comparator

.temp -40
.control
option reltol=1e-2 trtol=2
tran 20p 0.6750u
wrdata tran.dat v(OUTP) v(OUTN) i(Vsupply0)
.endc
.end
